US08895603B2
Benzenesulfonic acid (32.95 kg, 271 mol) was dissolved in dichloromethane (1020 kg) under nitrogen. Then, 880 g of water was added such that the solution KF was 0.2%. Next, tert-butyl {(2R,3S,5R)-2-(2,5-difluorophenyl)-5-[2-(methylsulfonyl)-2,6-dihydropyrrolo[3,4-c]pyrazol-5(4H)-yl]tetrahydro-2H-pyran-3-yl}carbamate (38.4 kg, 100 mol) was added in three equal portions over 30 min. The reaction was then aged overnight at room temperature. Next, water (733 kg) was added over 1 h and the reaction stirred rapidly for 1 h. The layers were then separated, discarding the resulting organics layer. To the aqueous layer was charged dichloromethane (510 kg) followed by triethylamine (22.4 kg, 592 mol). After agitation, the layers were separated and the aqueous extracted with dichloromethane (510 kg). The combined organics were washed with 7% aqueous NaHCO3 (2×410 kg) and 5% brine (386 kg). The organics were then dried with Na2SO4, filtered, and treated with activated carbon (6.2 kg of C-941). The carbon was filtered off and the filtrate was concentrated under vacuum to 154-193 L. This solution was then warmed to 30-35° C. to dissolve solids (additional dichloromethane may be added to dissolve solids). Next, iso-propylacetate (338 kg) was added and the solution stirred at room temperature for 1.5 h. Then, n-heptane (159 kg) was charged to the vessel drop-wise and stirred for 3 h. The slurry was then filtered and the cake washed with n-heptane. This wet cake was then recrystallized again by dissolving it into dichloromethane and adding iso-propylacetate and n-heptane as before, filtering, and washing with n-heptane. The solids were dried under vacuum at 40-50° C. overnight to give crystalline (2R,3S,5R)-2-(2,5-Difluorophenyl)-5[2-(methylsulfonyl)-2,6-dihydropyrrolo[3,4-c]pyrazol-5(4H)-yl]tetrahydro-2H-pyran-3-amine was washed with cold 2:1EtOAc/hexanes to give the title compound as an off-white solid. 1H NMR (500 MHz, CD3OD): 1.71 (q, 1H, J=12 Hz), 2.56-2.61 (m, 1H), 3.11-3.18 (m, 1H), 3.36-3.40 (m, 1H), 3.48 (t, 1H, J=12 Hz), 3.88-3.94 (m, 4H), 4.30-4.35 (m, 1H), 4.53 (d, 1H, J=12 Hz), 7.14-7.23 (m, 2H), 7.26-7.30 (m, 1H), 7.88(s, 1H). LC-MS: 399.04 [M+1].

reactant | Benzenesulfonic acid | 271 mol, 32.95 kg | C1(=CC=CC=C1)S(=O)(=O)O | C6H6O3S
reactant | KF | [F-].[K+]
reactant | tert-butyl {(2R,3S,5R)-2-(2,5-difluorophenyl)-5-[2-(methylsulfonyl)-2,6-dihydropyrrolo[3,4-c]pyrazol-5(4H)-yl]tetrahydro-2H-pyran-3-yl}carbamate | 100 mol, 38.4 kg | FC1=C(C=C(C=C1)F)[C@H]1OC[C@@H](C[C@@H]1NC(OC(C)(C)C)=O)N1CC2=NN(C=C2C1)S(=O)(=O)C | C22H28F2N4O5S
reactant | triethylamine | 592 mol, 22.4 kg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1020 kg | ClCCl | CH2Cl2
solvent | water | 733 kg | O | H2O
solvent | water | 880 g | O | H2O
product | (2R,3S,5R)-2-(2,5-Difluorophenyl)-5[2-(methylsulfonyl)-2,6-dihydropyrrolo[3,4-c]pyrazol-5(4H)-yl]tetrahydro-2H-pyran-3-amine | FC1=C(C=C(C=C1)F)[C@H]1OC[C@@H](C[C@@H]1N)N1CC2=NN(C=C2C1)S(=O)(=O)C | C17H20F2N4O3S
